US06348478B1
2,2,2-trichloro-1-(phenylmethoxy)ethanimine
0.868 g of 60% sodium hydroxide was measured and placed in a 100 ml flask with a two-way cock, and the gas in the flask was replaced with nitrogen. The sodium hydroxide was twice washed with hexane, and then dried under reduced pressure. The gas in the flask was again replaced with nitrogen, and 20 ml of diethyl ether was then added to form a suspension. The flask was immersed in an ice water bath, and the suspension was stirred for about five minutes. 20 ml of an ether solution containing 7.19 g of benzyl alcohol was added by the use of a cannula, and the reaction solution was stirred at such a temperature for 20 minutes, mixed with 10 ml of trichloroacetonitrile dropwisely added thereto, and stirred for 2 hours, while the temperature of the solution was gradually raised up to room temperature. After the reaction was finished, the reaction solution was mixed with a methanol/hexane solution, and further stirred for 3 hours. The insolubles were filtered off. The filtrate was concentrated under reduced pressure, and then again mixed with hexane. The impurities were filtered off. The solvent was distilled away from the filtrate under reduced pressure to obtain the title compound as a yellow oil (14.84 g, 88%).

reactant | sodium hydroxide | 0.868 g | [OH-].[Na+]
reactant | ether | 20 ml | CCOCC | C4H10O
reactant | benzyl alcohol | 7.19 g | C(C1=CC=CC=C1)O | C7H8O
reactant | trichloroacetonitrile | 10 ml | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | methanol hexane | CO.CCCCCC
product | 2,2,2-trichloro-1-(phenylmethoxy)ethanimine | 14.84 g, 88% | ClC(C(=N)OCC1=CC=CC=C1)(Cl)Cl | C9H8Cl3NO
